US06310070B1
A reaction was carried out following the conditions of Example 32 using 4.4 g (20 mmol) of 4-chlorosulfonylbenzoic acid and an ethylamine solution instead of the 40% aqueous solution of methylamine. The reaction product was post-treated to obtain 2.92 g of 4-ethylaminosulfonylbenzoic acid (yield 64%).

reactant | 4-chlorosulfonylbenzoic acid | 20 mmol, 4.4 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | ethylamine | C(C)N | C2H7N
reactant | methylamine | CN | CH5N
product | 4-ethylaminosulfonylbenzoic acid | 2.92 g, yield 64% | C(C)NS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C9H11NO4S
